US03960871
1,2-Dihydro-5,5-dimethyl-8-(3-methyl-2-octyl)-10-[2-methyl-4-(piperidino)butyryloxy]-3H,5H-thiopyrano[2,3-c][1]benzopyran hydrochloride ##SPC18##
A combination of 0.5 g. (1.33 mmole) of 1,2-dihydro-5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-3H,5H-thiopyrano [2,3-c][1]benzopyran, 0.30 g. (1.45 mmole) of dicyclohexylcarbodiimide, 0.29 g. (1.33 mmole) of 2-methyl-4-piperidinobutyric acid hydrochloride and 25 ml. of methylene chloride was stirred at room temperature for 16 hours. The reaction mixture was cooled for several hours and the byproduct of dicyclohexylurea was removed by filtration. After removal of the solvent on a rotary evaporator, the residue was combined with 15 ml. of diethyl ether and an additional amount of the dicyclohexylurea was removed by filtration. The solvent was evaporated and the residue thoroughly dried to give 0.40 g. (50%) of beige solid. The sample was pure by thin layer chromatography (10% MeOH/CHCl3), and the infrared spectrum was consistent with the desired product. Anal. Calcd. for C33H52ClNO3S.H2O (MW=596.28) C, 66.44, H, 9.13; N, 2.35; Found: C, 65.84; H, 9.01; N, 2.70.

reactant | 1,2-dihydro-5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-3H,5H-thiopyrano [2,3-c][1]benzopyran | 1.33 mmole | CC1(OC2=C(C3=C1SCCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C23H34O2S
reactant | dicyclohexylcarbodiimide | 1.45 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-methyl-4-piperidinobutyric acid hydrochloride | 1.33 mmole | Cl.CC(C(=O)O)CCN1CCCCC1
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 1,2-Dihydro-5,5-dimethyl-8-(3-methyl-2-octyl)-10-[2-methyl-4-(piperidino)butyryloxy]-3H,5H-thiopyrano[2,3-c][1]benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1SCCC3)C(=CC(=C2)C(C)C(CCCCC)C)OC(C(CCN2CCCCC2)C)=O)C | InChI=1S/C33H51NO3S.ClH/c1-7-8-10-14-23(2)25(4)26-21-28(36-32(35)24(3)16-19-34-17-11-9-12-18-34)30-27-15-13-20-38-31(27)33(5,6)37-29(30)22-26;/h21-25H,7-20H2,1-6H3;1H
